US04400509
Using the procedure of Example 21, 14.70 g (118 mmoles) of 4-methylthiophenol were silylated with 25 ml (120 mmoles) of hexamethyldisilazane using 40 mg (0.08 mmole) of tetraphenylimidodiphosphate as the catalyst and it was established that the silylation was completed within 1 hour. The product was isolated by distillation under vacuum to obtain 22.16 g (95.4%) of trimethyl-(4-methylphenylthio)-silane with a boiling point of 80.5°-82.0° C. at 2.5 mm Hg.

reactant | 4-methylthiophenol | 118 mmoles, 14.70 g | CC1=CC=C(C=C1)S | C7H8S
reactant | hexamethyldisilazane | 120 mmoles, 25 ml, 40 mg | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | tetraphenylimidodiphosphate | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(=O)NP(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C24H21NO6P2
product | trimethyl-(4-methylphenylthio)-silane | 22.16 g, 95.4% | C[Si](SC1=CC=C(C=C1)C)(C)C | C10H16SSi
